US03984563
2-Acetylamino-3-carboxymethyl-1-methylindole.
To a solution of 3.7 g. of 2-acetamido-3-carbethoxymethyl-1-methylindole in 37 ml. of methanol and 5 ml. of dichloromethane, 15.5 ml. of 1N sodium hydroxide are added at 0° C. The mixture is allowed to stand overnight and then it is neutralized with acetic acid and then evaporated to dryness. The oily residue is taken up with diluted hydrochloric acid and the solid which forms is washed with water. The product is purified by crystallization from ethanol. Yield 3.07 g., m.p. 200°-206° C.

reactant | 2-acetamido-3-carbethoxymethyl-1-methylindole | C(C)(=O)NC=1N(C2=CC=CC=C2C1CC(=O)OCC)C | C15H18N2O3
reactant | methanol | CO | CH4O
reactant | dichloromethane | ClCCl | CH2Cl2
reactant | sodium hydroxide | 1N | [OH-].[Na+]
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 2-Acetylamino-3-carboxymethyl-1-methylindole | C(C)(=O)NC=1N(C2=CC=CC=C2C1CC(=O)O)C | C13H14N2O3
